US07692005B2
4-Chloro-2-methyl-2H-pyrazole-3-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (0.250 g, 0.633 mmol) and ethyl formate (0.148 mL, 1.90 mmol) were dissolved in anhydrous ethanol (1.3 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (2.48 mL, 3.17 mmol). This reaction mixture was heated at 78° C. for 1 h, producing a black oil. Subsequently, the reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 1 with dropwise addition of 1M HCl(aq) causing the formation of a pale orange precipitate. The suspension was filtered yielding an orange solid as the pure 4-Chloro-2-methyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (0.187 g, 0.443 mmol, 70%).

reactant | 4-Chloro-2-methyl-2H-pyrazole-3-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.633 mmol, 0.250 g | O=C1NC2=CC(=CC=C2C1)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=CC1Cl)C | C20H15ClN4O3
reactant | ethyl formate | 1.90 mmol, 0.148 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 1.3 mL | C(C)O | C2H6O
solvent | ethanol | 3.17 mmol, 2.48 mL | C(C)O | C2H6O
product | 4-Chloro-2-methyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.443 mmol, 0.187 g, 70% | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=CC1Cl)C)=O | C21H15ClN4O4
